US04994482
Bromine (3.44 g, 21 mmol) was added dropwise to a solution of triphenylphosphine (5.65 g, 21 mmol) in DMF (20 mL) maintained under an atmosphere of nitrogen. After 30 minutes, a solution of 3,4,5-triphenyl-lH-pyrazol-1-hexanol (7.11 g, 18 mmol) in DMF (25 mL) was added in one portion. The mixture was stirred at room temperature for 20 minutes before being poured onto diethyl ether (500 mL) and washed with water (twice) and saturated sodium chloride solution (twice). The etheral layer was dried over magnesium sulphate and the solvent evaporated to leave an oil. Chromatography on a column of silica gel using a mixture of hexane, ethyl acetate and triethylamine (9:1:01) afforded 1-(6-bromohexyl)-3,4,5-triphenyl-lH-pyrazole (6.98 g 84%) as a yellow oil. MS(CI): m/e =458 (MH+).

reactant | Bromine | 21 mmol, 3.44 g | BrBr | Br2
reactant | triphenylphosphine | 21 mmol, 5.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,4,5-triphenyl-lH-pyrazol-1-hexanol | 18 mmol, 7.11 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCO | C27H28N2O
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-bromohexyl)-3,4,5-triphenyl-lH-pyrazole | 6.98 g, 84% | BrCCCCCCN1N=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H27BrN2
